US04210663
To a 500 ml. single neck reaction flask equipped with a magnetic stirrer, reflux condenser, and nitrogen inlet was added 6-phenyl-8-chloro-4-cyano-4-trimethylsilyloxy-3,4-dihydro-2H-1-benzopyran (3.0 g.). In one portion was added stannous chloride dihydrate (15 g.) followed by glacial acetic acid (20 ml.) and concentrated hydrochloric acid (20 ml.). The reaction flask was immediately flushed with nitrogen and plunged into a preheated (140° C.) oil bath. With vigorous stirring the reaction mixture was heated at reflux for 65 hrs., cooled to room temperature, diluted with 500 ml. chloroform, the layers separated, and the aqueous layers again saturated with chloroform. The combined organic layers were extracted with three 150 ml. portions of 2 N aqueous potassium hydroxide, and the combined basic aqueous layers back-extracted with one 150 ml. portion of ether. Acidification of the basic aqueous layer with ice bath cooling, extraction with three 250 ml. portions of chloroform, drying of the combined organic layers over magnesium sulfate, filtration, and removal of the volatiles afforded 6-phenyl-8-chloro-3,4-dihydro-2H-1-benzopyran-4-carboxylic acid. Filtration of a chloroform solution of the acid through 400 ml. of silica gel (EM Reagents, 70-230 mesh) with elution by three liters of chloroform removes a small amount of an -hydroxy acid impurity. Recrystallization from cyclohexane yielded 0.93 g. (38%) of the acid, m.p. 187°-188° C.

reactant | 6-phenyl-8-chloro-4-cyano-4-trimethylsilyloxy-3,4-dihydro-2H-1-benzopyran | 3.0 g | C1(=CC=CC=C1)C=1C=C(C2=C(C(CCO2)(O[Si](C)(C)C)C#N)C1)Cl | C19H20ClNO2Si
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-phenyl-8-chloro-3,4-dihydro-2H-1-benzopyran-4-carboxylic acid | C1(=CC=CC=C1)C=1C=C(C2=C(C(CCO2)C(=O)O)C1)Cl | C16H13ClO3
